US04619783
p-Nitrobenzyl 2-(4-Ethylthio-2-oxo-1-azetidinyl)-2-hydroxyacetate
A solution of 12.3 g. of 4-ethylthio-2-oxoazetidine and 25.5 g. of p-nitrobenzyl glyoxylate ethyl hemiacetal in 900 ml. of benzene was heated under reflux for 16 hours. During the heating for 16 hours, water and ethanol were removed from the reaction mixture by azeotropic distillation using a Dean-Stark trap. At this point, the benzene was removed by evaporation in vacuo, and the residue was dissolved in 700 ml. of dichloromethane. The dichloromethane solution was washed three times with water, and then dried with anhydrous sodium sulfate. Evaporation in vacuo afforded 32.5 g of the title compound as a yellow semi-solid. The IR spectrum of the product in chloroform showed an absorption at 5.65 microns. The NMR spectrum of the product in deuterochloroform showed peaks at 1.25 (t, 3H); 2.35-3.62 (m, 4H); 4.3 (s, 1H); 4.85 (m, 1H); 5.22 and 5.54 (ss, 1H); 5.38 (s, 2H); 7.5 (d, 2H); and 8.2 (d, 2H) ppm.

reactant | 4-ethylthio-2-oxoazetidine | C(C)SC1CC(N1)=O | C5H9NOS
reactant | p-nitrobenzyl glyoxylate ethyl hemiacetal | C(C)OC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O | C11H13NO6
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-Nitrobenzyl 2-(4-Ethylthio-2-oxo-1-azetidinyl)-2-hydroxyacetate | 32.5 g | C(C)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O | C14H16N2O6S
